US07863291B2
To 5,6-dichloro-3-isothiocyanatoisoquinoline (0.11 g, 0.431 mmol) in DMF (10 mL) was added cesium carbonate (0.351 g, 1.078 mmol) and (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.100 g, 0.435 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude urea was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was then treated with DMF (10 mL) and N,N′-diisopropylcarbodiimide (0.202 mL, 1.293 mmol). The reaction was heated to 90° C. for 18 hours. The reaction was cooled to room temperature and concentrated to yield the crude product. The crude product was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH) to yield (R)—N-(5,6-dichloroisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.084 g, 0.218 mmol, 50.6% yield) as a yellow powder. 1H NMR (500 MHz, CDCl3) δ ppm 9.09 (s, 1 H), 8.93 (s, 1 H), 7.63-7.82 (m, 2 H), 7.40 (d, J=8.55 Hz, 1 H), 3.99 (d, J=9.16 Hz, 1 H), 3.78 (d, J=8.85 Hz, 1 H), 3.51 (d, J=14.65 Hz, 1 H), 3.30 (d, J=14.65 Hz, 1 H), 2.90-3.23 (m, 4 H), 2.33-2.48 (m, 1 H), 2.29 (s, 1 H), 1.83-1.94 (m, 1 H), 1.62-1.83 (m, J=42.12 Hz, 2 H). MS (LC/MS) R.T.=1.57; [M+H]+=377.1.

reactant | 5,6-dichloro-3-isothiocyanatoisoquinoline | 0.431 mmol, 0.11 g | ClC1=C2C=C(N=CC2=CC=C1Cl)N=C=S | C10H4Cl2N2S
reactant | cesium carbonate | 1.078 mmol, 0.351 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.435 mmol, 0.100 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 1.293 mmol, 0.202 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5,6-dichloroisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.218 mmol, 0.084 g, 50.6% yield | ClC1=C2C=C(N=CC2=CC=C1Cl)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H18Cl2N4O
